US09212182B2
To a vial was added, 4-bromo-5-fluoro-2-iodoaniline (5.67 g, 17.95 mmol), PdOAc2 (0.201 g, 0.897 mmol), sodium bicarbonate (3.77 g, 44.9 mmol), ethyl acrylate (2.049 ml, 18.85 mmol) and DMF (12.0 ml). The reaction was heated for 3 hour at 100° C. The reaction was cooled to RT, diluted with water and extracted with DCM (3×). The combined organics were washed with water and brine, dried over magnesium sulfate, filtered and concentrated. The resulting material was triturated with heptane overnight and then filtered to afford (E)-ethyl 3-(2-amino-5-bromo-4-fluorophenyl)acrylate (4.00 g, 13.88 mmol, 77% yield) as a light yellow solid. m/z (ESI) 288.0 (M+H)+.

reactant | 4-bromo-5-fluoro-2-iodoaniline | 17.95 mmol, 5.67 g | BrC1=CC(=C(N)C=C1F)I | C6H4BrFIN
reactant | sodium bicarbonate | 44.9 mmol, 3.77 g | C([O-])(O)=O.[Na+]
reactant | ethyl acrylate | 18.85 mmol, 2.049 ml | C(C=C)(=O)OCC | C5H8O2
reactant | DMF | 12.0 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | (E)-ethyl 3-(2-amino-5-bromo-4-fluorophenyl)acrylate | 13.88 mmol, 4.00 g, 77% yield | NC1=C(C=C(C(=C1)F)Br)/C=C/C(=O)OCC | C11H11BrFNO2
